US06949648B2
Methyl 4-oxo-2-(2-oxopropyl)-4H-3,1-benzoxazine-5-carboxylate
To a solution of 2-methoxycarbonyl-6-nitrobenzoic acid (22.5 g, 0.1 mol) in methanol (100 mL) was added 10% palladium-carbon (2.0 g, 50% hydrate), and the mixture was stirred at room temperature under hydrogen atmosphere for 1 hour. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure, and the residue was dissolved in acetone (100 mL). To the solution was added dropwise diketene (23 mL, 0.30 mol) at room temperature. After the mixture was stirred at room temperature for 16 hours, the solution was concentrated under reduced pressure. The resulting crude crystals were collected by filtration, washed with acetone and diethylether, and air dried (15.4 g). The crude crystals were suspended in a mixture of acetic anhydride (10.4 mL, 0.11 mol) and tetrahydrofuran (60 mL), and the suspension was heated under reflux for 12 hours. The suspension was allowed to cool to room temperature, and the solvents were evaporated under reduced pressure to give crude crystals. The crystals were collected by filtration, washed with diethylether, and air dried to give the title compound (8.03 g, 31% yield).

reactant | 2-methoxycarbonyl-6-nitrobenzoic acid | 0.1 mol, 22.5 g | COC(=O)C1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C9H7NO6
reactant | diketene | 0.30 mol, 23 mL | C=C1CC(=O)O1 | C4H4O2
reactant | acetic anhydride | 0.11 mol, 10.4 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 100 mL | CO | CH4O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 2.0 g | [C].[Pd]
product | Methyl 4-oxo-2-(2-oxopropyl)-4H-3,1-benzoxazine-5-carboxylate | 8.03 g, 31% yield | O=C1OC(=NC=2C1=C(C=CC2)C(=O)OC)CC(C)=O | C13H11NO5
